US04701459
(2-5) Ethyl 1-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenyl]-4-piperidinecarboxylate
Prepared from diethyl 2,4-dioxoimidazolidine-5-phosphonate and 2-nitro-5-(4-ethoxycarbonyl-1-piperidinyl)benzaldehyde analogous to the procedure of Example (2-1), m.p. 221°-223° C., crystallized from MeOH.

reactant | diethyl 2,4-dioxoimidazolidine-5-phosphonate | O=C1NC(C(N1)=O)P(OCC)(=O)OCC | C7H13N2O5P
reactant | 2-nitro-5-(4-ethoxycarbonyl-1-piperidinyl)benzaldehyde | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)N1CCC(CC1)C(=O)OCC | C15H18N2O5
product | Ethyl 1-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenyl]-4-piperidinecarboxylate | O=C1NC(C(N1)=O)=CC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)C(=O)OCC | C18H20N4O6
